US04218457
To a chilled suspension of 2-(4-benzoyloxyphenyl)-5-hydroxyimidazole-4-carboxamide (323 mg) in anhydrous methanol (20 ml) was added sodium methoxide (216 mg). After stirring for 5 minutes at 0°-5° C. and 15 minutes at room temperature, N-hydrochloric acid aqueous solution (4 ml) and isopropylether (30 ml) were added. The precipitated crystal was separated by filtration, washed with isopropylether and dried under vacuum to give 2-(4-hydroxyphenyl)-5-hydroxy-1H-imidazole-4-carboxamide (190 mg).

reactant | 2-(4-benzoyloxyphenyl)-5-hydroxyimidazole-4-carboxamide | 323 mg | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)C=1NC(=C(N1)C(=O)N)O | C17H13N3O4
reactant | sodium methoxide | 216 mg | C[O-].[Na+]
reactant | isopropylether | 30 ml | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 20 ml | CO | CH4O
product | 2-(4-hydroxyphenyl)-5-hydroxy-1H-imidazole-4-carboxamide | 190 mg | OC1=CC=C(C=C1)C=1NC(=C(N1)C(=O)N)O | C10H9N3O3
